US07141586B2
cis-4-[(2-Chloro-5-fluoro-pyridine-3-carbonyl)-amino]-cyclohexanecarboxylic acid benzyl ester (2.14 g, 5.5 mmol), 3-methylsulfanylphenol (844 mg, 6.02 mmol) and caesium carbonate (2.67 g, 8.21 mmol) were suspended in dimethylformamide (50 ml) and the reaction was heated to 65° C. and stirred at this temperature under nitrogen for 18 h. The reaction was cooled to room temperature, concentrated under reduced pressure and the residue was diluted with water (50 ml). It was then extracted with ethyl acetate (3×40 ml) and the combined organic extracts were washed with water (2×10 ml), brine (10 ml), dried over MgSO4 and the solvent removed under reduced pressure. The residue was purified by flash column chromatography on silica gel eluting with a solvent gradient of pentane:ethyl acetate (2:8 changing to 1:3 then 3:7, by volume) to give cis-4-{[5-Fluoro-2-(3-methylsulfanyl-phenoxy)-pyridine-3-carbonyl]-amino}-cyclohexanecarboxylic acid benzyl ester (2.0 g) as a pale yellow oil.

reactant | cis-4-[(2-Chloro-5-fluoro-pyridine-3-carbonyl)-amino]-cyclohexanecarboxylic acid benzyl ester | 5.5 mmol, 2.14 g | C(C1=CC=CC=C1)OC(=O)[C@@H]1CC[C@@H](CC1)NC(=O)C=1C(=NC=C(C1)F)Cl | C20H20ClFN2O3
reactant | 3-methylsulfanylphenol | 6.02 mmol, 844 mg | CSC=1C=C(C=CC1)O | C7H8OS
reactant | caesium carbonate | 8.21 mmol, 2.67 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | cis-4-{[5-Fluoro-2-(3-methylsulfanyl-phenoxy)-pyridine-3-carbonyl]-amino}-cyclohexanecarboxylic acid benzyl ester | 2.0 g | C(C1=CC=CC=C1)OC(=O)[C@@H]1CC[C@@H](CC1)NC(=O)C=1C(=NC=C(C1)F)OC1=CC(=CC=C1)SC | C27H27FN2O4S
